***********************************************************
*
* BC850B
*
* Nexperia
*
* General purpose NPN Transistor
* IC   = 100 mA
* VCEO = 45 V 
* hFE  = 200 - 450 @ 5V/2mA
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 23
* 
* Package Pin 1: Base
* Package Pin 2: Emitter
* Package Pin 3: Collector
* 
*
* Extraction date (week/year): 24/2021
* Spicemodel includes temperature dependency
*
**********************************************************
*#
* Please note: Diode D1, Transistor Q2 and Resistor RQ 
* are dedicated to improve modeling of quasi
* saturation area and reverse mode operation
* and do not reflect physical devices.
*
.SUBCKT BC850B 1 2 3
Q1 1 2 3 MAIN 0.8636
Q2 11 2 3 MAIN 0.1364
RQ 11 1 324.8
D1 2 1 DIODE
*
.MODEL MAIN NPN
+ IS = 1.124E-14
+ NF = 0.9872
+ ISE = 2.566E-15
+ NE = 1.661
+ BF = 281.7
+ IKF = 0.09455
+ VAF = 36.27
+ NR = 0.9859
+ ISC = 7.015E-18
+ NC = 0.9228
+ BR = 7.047
+ IKR = 0.8167
+ VAR = 16.61
+ RB = 150
+ IRB = 0.0008356
+ RBM = 0.8289
+ RE = 0.804
+ RC = 0.2454
+ XTB = 1.382
+ EG = 1.11
+ XTI = 7.452
+ CJE = 1.264E-11
+ VJE = 0.7056
+ MJE = 0.3401
+ TF = 6.258E-10
+ XTF = 25
+ VTF = 2
+ ITF = 0.277
+ PTF = 0
+ CJC = 3.624E-12
+ VJC = 0.5036
+ MJC = 0.365
+ XCJC = 1
+ TR = 1.55E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
.MODEL DIODE D
+ IS = 1.365E-15
+ N = 0.988
+ BV = 1000
+ IBV = 0.001
+ RS = 2163
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*